US05051431
A dispersion of 337 mg (14.0 mmol) of 60% sodium hydride in mineral oil and5 ml of DMF is treated, dropwise, with a solution of 1.60 g (7.0 mmol) of 5-(3-hydroxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile. Thereaction is stirred 30 min at RT, then cooled in an ice bath and 1.36 g (7.0 mmol) of ethyl 4-bromobutyrate in 5 ml of DMF is added dropwise. The reaction is allowed to slowly come to RT and stirred over night. The mixture is concentrated under vacuum, the residue is taken up in 80 ml of water, extracted with EtOAc, acidified to pH=5 with 1N HCl, and the aqueous phase extracted with EtOAc (4×80 ml). The EtOAc is dried (MgSO4) and the solvent removed to leave a light yellow solid. This solid is triturated with hot ether and filtered to give 1.40 g of 5-(3-carboethoxypropyloxyphenyl)-6-methyl-2-oxo-1,3-dihydro-3 -pyridinecarbonitrile as a pale yellow solid, m.p. 168°-169°C. 1H-NMR (d6 -DMSO): δ 1.20 (t,3H); 1.95 (m,2H); 2.15 (s,3H); 2.50 (t,2H); 4.03 (q,2H); 4.05 (t,2H); 6.95 (m,3H); 7.30 (m,1H); 8.10 (s,1H).

reactant | sodium hydride | 14.0 mmol, 337 mg | [H-].[Na+]
reactant | 5-(3-hydroxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 7.0 mmol, 1.60 g | OC=1C=C(C=CC1)C=1C=C(C(NC1C)=O)C#N | C13H10N2O2
reactant | ethyl 4-bromobutyrate | 7.0 mmol, 1.36 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(3-carboethoxypropyloxyphenyl)-6-methyl-2-oxo-1,3-dihydro-3 -pyridinecarbonitrile | 1.40 g | C(=O)(OCC)CCCOC1=C(C=CC=C1)C=1CC(C(NC1C)=O)C#N | C19H22N2O4
